US07157468B2
2-Trifluoromethyl-imidazo[1,2-a]pyrazine
2-Aminopyrazine (12.5 g, 0.13 mol) and 3-bromo-1,1,1-trifluoro-propan-2-one (27.6 g, 0.14 mol) in ethanol (150 ml) was heated at reflux for 24 hours. A further portion of 3-bromo-1,1,1-trifluoro-propan-2-one (2.51 g, 14 mmol) was added and the mixture was heated at reflux for 18 hours. The solvent was evaporated under reduced pressure and the residue was dissolved in water (30 ml). Solid sodium hydrogen carbonate was added to bring the pH to 8 and the solution was extracted with dichloromethane (×3). The combined organic layers were washed with water (20 ml) dried over magnesium sulphate and evaporated under reduced pressure. The residue was purified by medium pressure chromatography on silica gel using methanol in dichloromethane as eluant (gradient from 2:98 to 4:96). The material isolated was further purified by chromatography on silica gel using methanol in dichloromethane as eluant (2:98). The material isolated was recrystallised from ethyl acetate/hexane to give the title compound as an orange brown solid (3 g).

reactant | 2-Aminopyrazine | 0.13 mol, 12.5 g | NC1=NC=CN=C1 | C4H5N3
reactant | 3-bromo-1,1,1-trifluoro-propan-2-one | 0.14 mol, 27.6 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | 3-bromo-1,1,1-trifluoro-propan-2-one | 14 mmol, 2.51 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Trifluoromethyl-imidazo[1,2-a]pyrazine | 3 g | FC(C=1N=C2N(C=CN=C2)C1)(F)F | C7H4F3N3
